US07612084B2
4-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}amino)ethyl]-2-(hydroxymethyl)phenol
4-{4-[4-(2-{[(2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl]amino}ethyl)phenoxy]butyl}-2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenol (Preparation 62, 388 mg, 0.44 mmol) was dissolved in ethanol (5 ml) and ammonium formate (280 mg, 4.44 mmol) and 20% palladium hydroxide on carbon (58 mg) added. The stirred reaction was heated at 85° C. for 18 hours. After cooling to room temperature, further ammonium formate (140 mg, 2.22 mmol) and 20% palladium hydroxide on carbon (20 mg) were added and mixture stirred at 85° C. for 3 hours. Reaction mixture was then cooled and filtered through Arbocel™, the filtrate was collected and the solvent removed in vacuo to furnish the title compound as a glass, 311 mg.

reactant | 4-{4-[4-(2-{[(2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl]amino}ethyl)phenoxy]butyl}-2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenol | 0.44 mmol, 388 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCC1=CC=C(OCCCCC2=CC(=C(C=C2)O)[C@H](CCN(C(C)C)C(C)C)C2=CC=CC=C2)C=C1)O[Si](C)(C)C(C)(C)C)CO | C55H76N2O5Si
reactant | ammonium formate | 4.44 mmol, 280 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 2.22 mmol, 140 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 58 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 20 mg | [OH-].[OH-].[Pd+2]
product | 4-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}amino)ethyl]-2-(hydroxymethyl)phenol | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCC1=CC=C(C=C1)OCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)C1=CC(=C(C=C1)O)CO | C48H70N2O5Si
